US08648066B2
A solution of methyl 2-amino-5-bromo-4-methoxybenzoate (75 mg, 0.29 mmol) and ammonium formate (38 mg, 0.8 mmol) in formamide (1 mL) was heated at 165° C. for 18 h. The mixture was allowed to cool to room temperature then diluted with an excess of water. The solid formed was collected by filtration and washed with water then ethyl acetate and dried to give 6-bromo-7-methoxyquinazolin-4(3H)-one (53 mg, 72% yield) as a pale yellow solid. MS (EI) for C9H7BrN2O2: 255, 257 (MH+).

reactant | methyl 2-amino-5-bromo-4-methoxybenzoate | 0.29 mmol, 75 mg | NC1=C(C(=O)OC)C=C(C(=C1)OC)Br | C9H10BrNO3
reactant | ammonium formate | 0.8 mmol, 38 mg | C(=O)[O-].[NH4+]
reactant | water | O | H2O
reactant | formamide | 1 mL | C(=O)N | CH3NO
product | 6-bromo-7-methoxyquinazolin-4(3H)-one | 53 mg, 72% yield | BrC=1C=C2C(NC=NC2=CC1OC)=O | C9H7BrN2O2
